US03971789
4,7-Dichloroquinoline and 2-amino-4-chloro benzoic acid are refluxed in dilute hydrochloric acid for 1 hour to give 4-chloro-2-(7-chloro-4-quinolylamino)benzoic acid.

reactant | 4,7-Dichloroquinoline | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | 2-amino-4-chloro benzoic acid | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
solvent | hydrochloric acid | Cl | ClH
product | 4-chloro-2-(7-chloro-4-quinolylamino)benzoic acid | ClC1=CC(=C(C(=O)O)C=C1)NC1=CC=NC2=CC(=CC=C12)Cl | C16H10Cl2N2O2
